US04304733
A mixture of 1.4 g of ferric nitrate in 1200 ml of liquid ammonia was formed at -60° C. and was then stirred for 5 minutes after which 2 g of sodium were added thereto at -60° C. The mixture was stirred for 10 minutes and 104 g of sodium were added at -55±5° C. over 21/2 hours. The mixture was stirred at -55° C. for one hour. 300 g of ethyl acetylacetate were added thereto over 30 minutes at less than -30° C. 1000 ml of ether at -20° C. were added to the mixture which was then stirred for 5 minutes. 289 g of 1-chloro-3-methyl-2-butene were added over 30 minutes at less than -25° C. and the mixture stood at room temperature for 17 hours. 1000 ml of ether were progressively added at less than ±15° C. followed by a solution of 250 ml of acetic acid in 1000 ml of water. The decanted aqueous phase was extracted with ether and the combined organic phases were washed with 2 N hydrochloric acid, then with water, dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was rectified under reduced pressure to obtain 175.5 g of ethyl 7-methyl-3-oxo-6-octenoate with a boiling point of 98° to 107° C. at 3 mmHg.

reactant | ammonia | N | H3N
reactant | sodium | 104 g | [Na] | Na
reactant | ethyl acetylacetate | 300 g | C(C)(=O)CC(=O)OCC | C6H10O3
reactant | 1-chloro-3-methyl-2-butene | 289 g | ClCC=C(C)C | C5H9Cl
solvent | water | 1000 ml | O | H2O
catalyst | sodium | 2 g | [Na] | Na
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 1000 ml | CCOCC | C4H10O
product | ethyl 7-methyl-3-oxo-6-octenoate | 175.5 g | CC(=CCCC(CC(=O)OCC)=O)C | C11H18O3
